US07910735B2
Production of N-{3-isobutyl-4-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]pheny}-3-methyl-pyrazine-2-carboxamide (Compound No. 1-17)
3-Methylpyrazine-2-carboxylic acid (138 mg, 1 mmol), 3-isobutyl-4-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]aniline (299 mg, 1 mmol), 2-chloro-1-methylpyridinium iodide (255 mg, 1 mmol) and triethylamine (303 mg, 3 mmol) were dissolved in tetrahydrofuran (10 ml) and refluxed under heating for 3 hours. The reaction solution was diluted with ethyl acetate, followed by washing with water. The organic layer was dried over magnesium sulfate anhydride, and concentrated under reduced pressure, and then the residue was purified by using silica gel chromatography (hexane:ethyl acetate=2:1) to obtain 290 mg of the desired compound.

reactant | 3-Methylpyrazine-2-carboxylic acid | 1 mmol, 138 mg | CC=1C(=NC=CN1)C(=O)O | C6H6N2O2
reactant | 3-isobutyl-4-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]aniline | 1 mmol, 299 mg | C(C(C)C)C=1C=C(N)C=CC1C(C(F)(F)F)C(F)(F)F | C13H15F6N
reactant | 2-chloro-1-methylpyridinium iodide | 1 mmol, 255 mg | [I-].ClC1=[N+](C=CC=C1)C
reactant | triethylamine | 3 mmol, 303 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{3-isobutyl-4-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]pheny}-3-methyl-pyrazine-2-carboxamide | 290 mg, Yield: 69% | C(C(C)C)C=1C=C(C=CC1C(C(F)(F)F)C(F)(F)F)NC(=O)C1=NC=CN=C1C | C19H19F6N3O
